US04931436
9-Chloro-11-[[4-[2-[2-(diethylamino)ethoxy]ethyl]-1-piperidinyl]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 4 from 9-chloro-11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 4-[2-[2-(diethylamino)ethoxy]ethyl]piperidine in a yield of 43% of theory. Colourless crystals, m.p. 145°-146° C. (acetonitrile), Rf 0.39 (conditions as in Example 54).

reactant | 9-chloro-11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC1=CC2=C(C(NC3=C(N2C(=O)Cl)N=CC=C3)=O)C=C1 | C13H7Cl2N3O2
reactant | 4-[2-[2-(diethylamino)ethoxy]ethyl]piperidine | C(C)N(CCOCCC1CCNCC1)CC | C13H28N2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 9-Chloro-11-[[4-[2-[2-(diethylamino)ethoxy]ethyl]-1-piperidinyl]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 43% | ClC1=CC2=C(C(NC3=C(N2C(=O)N2CCC(CC2)CCOCCN(CC)CC)N=CC=C3)=O)C=C1 | C26H34ClN5O3
